US07994205B2
2-bromo-1-phenyl-2-(phenylthio)ethanone
To a solution of 1-phenyl-2-(phenylthio)ethanone (2.1 g) in acetic acid (20 mL) was added bromine (0.5 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 2.9 g, about 100%).

reactant | 1-phenyl-2-(phenylthio)ethanone | 2.1 g | C1(=CC=CC=C1)C(CSC1=CC=CC=C1)=O | C14H12OS
reactant | bromine | 0.5 mL | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-1-phenyl-2-(phenylthio)ethanone | yield 2.9 g, about 100% | BrC(C(=O)C1=CC=CC=C1)SC1=CC=CC=C1 | C14H11BrOS
